US05831115
N-Benzyl-10-phenyidecanamide
To a solution of 10-phenyldecanoic acid (1.101 g, 4.43 mmol) in 20 mL of CH2Cl2 at room temperature was added oxalyl chloride (1.41 g, 11.08 mmol) and 1 drop of DMF, and the reaction mixture was stirred for 1 hour under nitrogen. The CH2Cl2 and excess oxalyl chloride were evaporated. The reaction was redissolved in CH2Cl2 and benzylamine (1.42 g, 13.3 mmol) and 2 mL of saturated aqueous NaHCO3 were added and the reaction stirred for 12 hours. The reaction was taken up in EtOAc and washed with 1N HCl×2, followed by saturated aqueous NaCl, and evaporated to give 1.462 g (98%) of an oil that was used without further purification. 1H NMR (CDCl3, 300 MHz) δ 1.30 (m, 10H), 1.55-1.72 (m, 4H), 2.20 (t, 2H), 2.59 (t, 2H), 4.45 (d, 2H), 5.68 (bs, 1H), 7.12-7.38 (m, 10H). MS (DCl--NH3) m/e (M+H)+ 338.

reactant | 10-phenyldecanoic acid | 4.43 mmol, 1.101 g | C1(=CC=CC=C1)CCCCCCCCCC(=O)O | C16H24O2
reactant | oxalyl chloride | 11.08 mmol, 1.41 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | benzylamine | 13.3 mmol, 1.42 g | C(C1=CC=CC=C1)N | C7H9N
reactant | NaHCO3 | 2 mL | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
catalyst | DMF | 1 drop | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | N-Benzyl-10-phenyidecanamide | 1.462 g, 98% | C(C1=CC=CC=C1)NC(CCCCCCCCCC1=CC=CC=C1)=O | C23H31NO
